US08664220B2
Step 2: (1-Benzyl-1H-[1,2,3]triazol-4-yl)-[5-(4-bromo-phenyl)-3-methyl-isoxazol-4-yl]-methanol
Prepared according to the procedure described in Example 9, Step 2, using 1-[5-(4-bromo-phenyl)-3-methyl-isoxazol-4-yl]-prop-2-yn-1-ol and azidomethyl-benzene.

reactant | 1-[5-(4-bromo-phenyl)-3-methyl-isoxazol-4-yl]-prop-2-yn-1-ol | BrC1=CC=C(C=C1)C1=C(C(=NO1)C)C(C#C)O | C13H10BrNO2
reactant | azidomethyl-benzene | N(=[N+]=[N-])CC1=CC=CC=C1 | C7H7N3
product | (1-Benzyl-1H-[1,2,3]triazol-4-yl)-[5-(4-bromo-phenyl)-3-methyl-isoxazol-4-yl]-methanol | C(C1=CC=CC=C1)N1N=NC(=C1)C(O)C=1C(=NOC1C1=CC=C(C=C1)Br)C | C20H17BrN4O2
